Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status/Hearing Voices 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ w/ type 1 diabetes mellitus (insulin pump), chronic lumbar 
disk disease, hypertension, hyperlipidemia, severe peripheral 
vascular disease with right BKA ___, chronic pain from PVD 
and phantom limb pain on narcotics), orthostatic hypotension 
(was on salt tabs) who presents after sliding off of bed. Her 
husband witnessed the fall and prevented her from hitting her 
head. She did not lose consciousness. Her husband was unable to 
get her off the floor and the EMTs had to carry her onto the 
stretcher. She had no pain after the fall except a bruise on her 
left bicep. 
   She has been nauseated for the past 6 days and has been 
hearing unitelligible voices coming out of her insulin pump at 
that time. She has been eating and drinking less since the 
nausea began. Starting 5 days ago she started coughing clear 
sputum up at night. She claims that she is urinating less than 
normal. Her blood sugars at home have ranged between 150-250. 
She has had no changes in her thinking or mentation recently. 
She last had a bowel movement several weeks ago and her belly 
feels very distended. She reports no fevers or chills. She just 
feels off and has had 5 days of cough and feeling worse.

In the ED, initial vital signs were  Pain 6 T 97.8 P 76 BP 
135/55 RR 16 95% RA . Patient was given 1L NS, CT head 
demonstrating no acute intracranial abnormalities except 
hypodensities in the right pons which probably represent old 
infarcts which were present on prior CTs.  She also had urine 
lytes drawn demonstrating a Na of 21 and Osm of 295. CXR showed 
no acute cardiopulmonary process. R shoulder x ray showed old 
impaction deformity of the humeral head but no acute fracture.
 
The pt was recently seen by her PCP, ___ recommended 
ENT evaluation for chronic hoarseness and discontinued 
spironolactone for hyperkalemia. 

On the floor her Vitals were 98.1, 179/72, 70, 94% RA. She is 
alert and resting comfortably. 

Review of Systems:  
(+) Per HPI. 
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
PAST MEDICAL HISTORY:
- h/o DVT, unknown when  
- DMI on insulin pump, patient unable to say dose. Followed by 
___.  
- Peripheral neuropathy  
- h/o gastroparesis  
- Chronic LBP/sciatica  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- History of seizure ___ characterized by becoming less  
responsive, oriented to name only, gaze deviation and left arm  
shaking. ___ 297 and was in the setting of receiving cipro, Neuro 
 
felt ___ infection vs PRES.  
- Barretts Esophagus on EGD ___  
- Depression  
- MI ___, no stents  
.
PAST SURGICAL HISTORY:  
___ - Malunion right intertrochanteric hip fracture with  
protrusion of screw s/p revision arthroplasty  
___ Comminuted right intertrochanteric hip fracture s/p right 
 
hip fracture open reduction internal fixation (intramedullary  
nail)  
___ RLE angiography  
RLE SFA-AT BPG with NRSVG ___  
Angioplasty of vein graft ___  
___, L hip hemiarthroplasty  
- Hiatal hernia  
- s/p laminectomy  
- s/p hysterectomy  

 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. 
Father - coronary artery disease with MI in her ___, died at age 
___.  

 
Physical Exam:
Admission Physical Exam:
Vitals- 98.1, 179/72, 70, 94%  
General: A&Ox3, NAD, laying in bed  
HEENT: PERRL, EOMI, MMM, oropharanyx clear   
Neck: supple, no lymph adenopathy   
CV: RRR, no M/G/R  
Lungs: decreased breath sounds bilaterally, some crackles at the 
lung bases, no wheezes 
Abdomen: distension, BS+, no ___ or rebound, slight LUQ 
tenderness  
GU: no CVA or suprapubic tenderness 
Ext: 2+ pulses throughout, LBKA, no clubbing    
Neuro: CNII-XII intact, no focal sensory deficits to pinprick, 
motor grossly intact 
Skin: dry, no rashes 
.
Discharge Physical Exam:  
Vitals- T:98.1  BP:154/50   HR:70   RR:16  O2Sat: 99% on RA  
General: A&Ox3, laying comfortably, in NAD
HEENT: MMM, oropharanyx clear   
Neck: supple, no LAD  
CV: RRR, normal S1 and S2, no M/R/G  
Resp: CTAB, no wheezes, no crackles appreciated.
ABD: nontender, nondistended, BS+ in all 4Q, no guarding/rebound
Ext: 2+ pulses in upper and lower ext, LBKA    
Neuro: CNII-XII intact, motor strength intact, no focal sensory 
deficits to pinprick 
Skin: dry, no rashes 
PSYCH: Denies voices, mood and affect appropriate

 
Pertinent Results:
Admission Labs:
.
___ 04:20AM   ___ PTT-UNABLE TO  ___
___ 04:20AM   PLT COUNT-213
___ 04:20AM   NEUTS-71.6* LYMPHS-15.3* MONOS-7.1 EOS-5.4* 
BASOS-0.6
___ 04:20AM   WBC-8.3# RBC-3.15* HGB-9.2* HCT-28.8* MCV-91 
MCH-29.1 MCHC-31.8 RDW-12.7
___ 04:20AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:20AM   ALBUMIN-3.8
___ 04:20AM   LIPASE-11
___ 04:20AM   ALT(SGPT)-21 AST(SGOT)-45* ALK PHOS-103 TOT 
BILI-0.3
___ 04:20AM   GLUCOSE-221* UREA N-58* CREAT-3.2*# 
SODIUM-130* POTASSIUM-6.0* CHLORIDE-93* TOTAL CO2-25 ANION 
GAP-18
___ 04:52AM   LACTATE-1.3 K+-4.7
___ 04:52AM   ___ COMMENTS-GREEN TOP
___ 06:43AM URINE  EOS-NEGATIVE  
___ 06:43AM URINE  MUCOUS-RARE
___ 06:43AM URINE  HYALINE-4*
___ 06:43AM URINE  RBC-1 WBC-4 BACTERIA-FEW YEAST-NONE 
EPI-2 TRANS EPI-<1
___ 06:43AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-MOD
___ 06:43AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:43AM URINE  UHOLD-HOLD
___ 06:43AM URINE  HOURS-RANDOM
___ 03:35PM URINE  OSMOLAL-295
___ 03:35PM URINE  HOURS-RANDOM UREA N-453 CREAT-81 
SODIUM-21 POTASSIUM-15 CHLORIDE-19
.
Interval Labs:
.
___ 07:07AM BLOOD WBC-4.8 RBC-3.23* Hgb-9.7* Hct-29.4* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-12.9 Plt ___
___ 07:07AM BLOOD ___ PTT-31.1 ___
___ 07:07AM BLOOD Glucose-324* UreaN-38* Creat-1.6*# Na-135 
K-4.9 Cl-101 HCO3-24 AnGap-15
___ 05:00PM BLOOD Glucose-329* Na-130* K-4.8 Cl-99 HCO3-26 
AnGap-10
___ 07:07AM BLOOD proBNP-1812*
___ 07:07AM BLOOD Calcium-8.9 Phos-3.1# Mg-2.1
___ 05:00PM BLOOD Calcium-8.5 Phos-2.2* Mg-1.9
___ 05:00PM BLOOD TSH-0.36
___ 03:00PM BLOOD WBC-6.6 RBC-3.41* Hgb-10.0* Hct-31.7* 
MCV-93 MCH-29.3 MCHC-31.4 RDW-13.2 Plt ___
___ 03:00PM BLOOD Glucose-368* UreaN-26* Creat-1.5* Na-133 
K-5.0 Cl-97 HCO3-25 AnGap-16
___ 03:00PM BLOOD ALT-18 AST-29 AlkPhos-88 TotBili-0.2
___ 03:00PM BLOOD Calcium-9.3 Phos-2.0* Mg-1.5*
___ 03:00PM BLOOD Triglyc-57
___ 01:13PM BLOOD Glucose-282* UreaN-21* Creat-1.4* Na-134 
K-4.4 Cl-98 HCO3-26 AnGap-14
___ 01:13PM BLOOD cTropnT-<0.01
. 
Discharge Labs:
Blood sugars ranged from 120s-230s. 
.
Microbiology: 
Blood Cultures (___): No growth.
.
Imaging/Studies:
# ECG (___): Sinus rhythm. Left axis deviation. Poor R wave 
progression, probably a normal variant. Compared to the previous 
tracing of ___ there is no significant interval diagnostic 
change. 
# CXR (___): IMPRESSION:  No acute cardiopulmonary process.
# CT Head without Contrast (___): IMPRESSION: No acute 
intracranial abnormality.  Stable hypodense foci in the right 
pons suggesting prior infarcts. 
# R shoulder X-ray (___): IMPRESSION: Old impaction deformity 
of the humeral head.  No acure fracture. 
# Renal US (___): IMPRESSION: Normal renal ultrasound.
# ECG (___): Sinus rhythm. Some T-wave flattening in V5-V6 
which was new since the ECG on ___. However, the patient was 
not complaining of chest pain and her Troponin was <0.01, so the 
suspicion of MI was low. 
 
Brief Hospital Course:
___ w/ type 1 diabetes mellitus (insulin pump), chronic lumbar 
disk disease, hypertension, hyperlipidemia, severe peripheral 
vascular disease with right BKA ___, chronic pain from PVD 
and phantom limb pain on narcotics), orthostatic hypotension 
(was on salt tabs) who presented after sliding off of her bed.  
.
Active Diagnoses:
.
#) COPD exacerbation: She complained of productive cough for 
about a week and increasing shortness of breath. Given her 
smoking history and the physical exam findings of decreased 
breath sounds with crackles at the lung bases, COPD exacerbation 
was the most likely diagnosis. Her CXR in the ER showed mild 
hyperinflation with no acute cardiopulmonary process. Congestive 
heart failure was less likely but she did complain of worsening 
short while laying flat, but this symptom had not acutely 
worsened over the past couple of days. Infectious causes were 
also considered but in the absence of fever, leukocytosis, and 
lack of CXR findings, this was less likely. She was given 
nebulizer treatments of albuterol and ipratropium and she was 
started on 5 day courses of prednisone and azythromycin. She 
began breathing better and stated that her auditory 
hallucinations had stopped. She completed her courses of 
prednisone and azithromycin while in the hospital. She was then 
discharged home with prescriptions for ProAir and Spiriva. She 
will follow up with her PCP ___ ___. She may get PFTs as an 
outpatient.    
. 
#) DM (Type I)/Steroid induced hyperglycemia: Ms. ___ 
sugars at home have ranged from 150-250. Her sugars were high on 
admission. She is followed by ___ who last adjusted her pump 
setting in ___. ___ was consulted on ___ to manage her 
sugars while she was receiving prednisone. ___ found that her 
insulin pump settings were off by 12hrs. Her pump had a bubble 
in the insulin cartridge, making it unclear how much insulin she 
had actually been receiving. Thus, ___ corrected her pump 
settings to account for steroids, replaced all pump materials 
and recommended a SQ insulin injection to help control her 
hyperglycemia. Her chemistries on ___ did not reveal an anion 
gap and there were no ketones in her urine. On ___, her BS 
remained high (300's) and she experienced a low of 48 in the 
morning. ___ further adjusted her settings. She continued to 
have blood sugars in the 300/400's on ___. She finished 
her course of prednisone on ___. On ___ her blood sugars 
ranged from ___ adjusted her pump to it's 
pre-admission settings and she was discharged home. She will 
follow up with ___ on ___.    
.
#) ___: Her creatinine on admission was 3.2, which was double 
the 1.6 observed on ___. With a FeNa of less than 1% in the 
context of recent poor po intake and decreased UOP, her ___ was 
most likely caused by hypovolemia. Her creatinine  improved with 
IVF. However, to better assess baseline kidney status, she had 
renal US on ___, which showed no evidence of hydronephrosis, 
stones or suspicious masses. Her creatinine on ___ improved to 
1.4. Discharge labs were held secondary to increased difficulty 
with blood draws.  
.
# Phantom limb pain: Controlled at home with MS ___, 
gabapentin and oxycodone. Her MS ___ dose was decreased in 
the setting of ___. She reported a lot of phantom limb pain with 
the reduced dose, thus on ___ her MS ___ dose was increased. 
Her phantom limb pain then improved. 
.
#) Hypertension: She was hypertensive on admission but her home 
lisinopril was held in the setting of ___. She was started on 
oral labetalol. She continued to be hypertensive and the 
labetalol dose was increased. The labetalol was discontinued on 
___ and she resumed taking her home lisinopril. 
.
#)Hyponatremia: Unclear etiology. She takes salt tablets at 
home. On admission, her urine osmolarity was not suggestive of 
SIADH. She was given normal saline IV and her serum sodium 
remained stable. 
.
# Mood: She initially continued her home doses of citalopram and 
lorazepam. On ___,  the lorazepam dose was halved as she became 
somnolent after taking it.
.
Chronic Diagnoses:
.
# PVD, s/p Rt BKA: Continued home simvastatin and Plavix.
# Constipation: Continued senna and docusate.
# Diabetic Retinopathy: Continued Restasis and 
carboxymethylcellulose drops.
# GERD: Continued home omeprazole.
# Gastroparesis: Continued home metoclopramide.
# Hypothyroidism: Continued home levothyroxine.    
.
Transitional: 
# Given likely COPD exacerbation, consider PFTs in the 
outpatient setting.
# Elevated BNP and new T-wave flattening seen on the EKG on 
___. Consider getting an echocardiogram to further 
characterize her heart function as an outpatient. 
# For any COPD exacerbation that requires steroids, she needs to 
essentially double her insulin. Her baseline Insulin: 
Carbohydrate ratio increased to 1:5.5 while on steroids during 
this hospital stay. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. cycloSPORINE 0.05 % ___ TID 
2. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit Oral daily 
3. carboxymethylcellulose sodium 1% Drops ___ dryness 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. FoLIC Acid Dose is Unknown  PO DAILY 
7. Multivitamins 1 TAB PO QAM 
8. Fish Oil (Omega 3) Dose is Unknown  PO BID 
9. Senna 2 TAB PO DAILY:PRN constipation 
10. Calcitriol 0.25 mcg PO DAILY 
11. Citalopram 40 mg PO DAILY 
12. Clopidogrel 75 mg PO DAILY 
13. Gabapentin 400 mg PO DAILY 
14. Glucagon 1 mg IM PRN low blood sugar 
15. Levothyroxine Sodium 88 mcg PO DAILY 
16. Lisinopril 20 mg PO DAILY 
17. Lorazepam 1 mg PO Q6H:PRN anxiety 
18. Metoclopramide 10 mg PO QIDACHS 
19. Omeprazole 20 mg PO DAILY 
20. OxycoDONE (Immediate Release)  5 mg PO BID 
21. Morphine SR (MS ___ 45 mg PO QAM 
22. Morphine SR (MS ___ 30 mg PO QPM 

 
Discharge Medications:
1. Calcitriol 0.25 mcg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. cycloSPORINE 0.05 % ___ TID 
6. Docusate Sodium 100 mg PO BID 
7. Fish Oil (Omega 3) 1000 mg PO BID 
8. Gabapentin 400 mg PO DAILY 
9. Glucagon 1 mg IM PRN low blood sugar 
10. Levothyroxine Sodium 88 mcg PO DAILY 
11. Lorazepam 1 mg PO Q6H:PRN anxiety 
12. Metoclopramide 10 mg PO QIDACHS 
13. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit Oral daily 
14. carboxymethylcellulose sodium 1% Drops ___ dryness 
15. FoLIC Acid 1 mg PO DAILY 
16. Morphine SR (MS ___ 45 mg PO QPM 
17. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate 90 mcg 2 Puffs INH every six (6) hours 
Disp #*1 Inhaler Refills:*0
18. Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 tab 
inh daily Disp #*90 Capsule Refills:*0
19. Aerochamber MV (inhalational spacing device) as directed  
Miscellaneous as directed 
use with inhaler 
RX *inhalational spacing device [Aerochamber Max - Mask Medium]  
  as directed Disp #*1 Unit Refills:*0
20. Multivitamins 1 TAB PO QAM 
21. Omeprazole 20 mg PO DAILY 
22. OxycoDONE (Immediate Release)  5 mg PO BID 
23. Senna 2 TAB PO DAILY:PRN constipation 
24. Morphine SR (MS ___ 45 mg PO QAM:PRN pain 
25. Lisinopril 20 mg PO DAILY 
26. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)

Basal Rates:
  Midnight - 8:  .6 Units/Hr
  8 - 1530:  .65 Units/Hr
  15:30 - 2330:  .75 Units/Hr
  2330 - 2400:  .4 Units/Hr
Meal Bolus Rates:
  Breakfast = 1:10
  Lunch = 1:10
  Dinner = 1:10
  Snacks = 1:10
High Bolus:
  Correction Factor = 1:40
  Correct To ___ mg/dL

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Primary: ___, Type I diabetes with pump malfunction, presumed 
COPD exacerbation, hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ came to the hospital after falling out of bed. While in the 
hospital it was noticed that ___ had decreased kidney function 
and that ___ had crackles in your lungs. ___ were given 
steroids, antibiotics, and nebulizer treatments for your lungs 
and ___ started to breath better. ___ were given IV fluids for 
your kidney and your lisinopril was stopped because it can 
worsen your kidney function. Labetalol was started to treat your 
high blood pressure. Your kidney function improved and your home 
lisinopril was restarted.  

___ were seen by ___ Diabetes to manage your diabetes while 
___ were in the hospital. They adjusted your pump settings while 
___ were in the hospital. ___ have an appointment to follow up 
with ___ on ___ to monitor your sugars. Please follow up 
with your PCP ___ ___.   

It was a pleasure to be a part of your care. 
 
Followup Instructions:
___